US04970317
The same general procedure was repeated using castanospermine and vinyl acetate (2.2 mmol) and a reaction time of 84 hours to give [1S-(1α, 6β,7α, 8β, 8aβ)]-octahydro-1,6,7,8-indolizinetetrol 1-acetate melting at about 151°-153° C. (yield, 91%)

reactant | castanospermine | C1CN2C[C@@H]([C@H]([C@@H]([C@H]2[C@H]1O)O)O)O | C8H15NO4
reactant | vinyl acetate | 2.2 mmol | C(C)(=O)OC=C | C4H6O2
product | octahydro-1,6,7,8-indolizinetetrol 1-acetate | 91% | C(C)(=O)OC1CCN2CC(C(C(C12)O)O)O | C10H17NO5
